US06048864
(f) 4-Amino-6-benzyloxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline
1-(4-Morpholinecarbonyl)-1,4-diazepane hydrochloride (16 g, 0.075 mol) and 4-amino-6-benzyloxy-2-chloro-7-methoxyquinazoline (15 g, 0.048 mol) were added to a solution of triethylamine (20 ml, 0.144 mol) in n-butanol (200 ml) and the reaction stirred at reflux for 1 hour. On cooling, the mixture was concentrated under reduced pressure and the residue partitioned between dichloromethane (400 ml) and water (400 ml). The phases were separated and the organic layer dried (MgSO4), filtered and evaporated under reduced pressure to give a cream coloured solid. Trituration with diethyl ether gave the title compound as a solid (16.35 g, 70%). Rf 0.50 (0.880 aqueous ammonia:methanol:dichloromethane 1:7:92, v/v). MS m/z 493 (MH)+. 1H-NMR (CDCl3): δ=2.03 (2H, m), 3.18 (4H, m), 3.34 (2H, t), 3.56 (2H, m), 3.65 (5H, m), 3.85 (2H, m), 4.00 (4H, m), 5.00 (1H, bs), 5.18 (2H, s), 6.87 (1H, bs), 7.37 (4H, m), 7.47 (3H, m).

reactant | 1-(4-Morpholinecarbonyl)-1,4-diazepane hydrochloride | 0.075 mol, 16 g | Cl.N1(CCOCC1)C(=O)N1CCNCCC1
reactant | 4-amino-6-benzyloxy-2-chloro-7-methoxyquinazoline | 0.048 mol, 15 g | NC1=NC(=NC2=CC(=C(C=C12)OCC1=CC=CC=C1)OC)Cl | C16H14ClN3O2
reactant | triethylamine | 0.144 mol, 20 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | n-butanol | 200 ml | C(CCC)O | C4H10O
product | 4-Amino-6-benzyloxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline | 16.35 g, 70% | NC1=NC(=NC2=CC(=C(C=C12)OCC1=CC=CC=C1)OC)N1CCN(CCC1)C(=O)N1CCOCC1 | C26H32N6O4
